US06919353B2
To a solution of 4-methanesulfonylbenzyl chloride (10 g, 49 mmol) in DMF (100 mL) was added HMPA (9.35 mL, 54 mmol) and KCN (3.5 g, 54 mmol). The resulting reaction mixture was stirred 18 h at 80° C., then diluted with water and ethyl acetate. The organic extracts were washed (NaHCO3, brine), dried (MgSO4), filtered and concentrated. Purification by flash chromatography (eluting with hexane/ethyl acetate, 1:1 to 25:75) provided the (4-methanesulfonyl-phenyl)-acetonitrile compound.

reactant | 4-methanesulfonylbenzyl chloride | 49 mmol, 10 g | CS(=O)(=O)C1=CC=C(CCl)C=C1 | C8H9ClO2S
reactant | HMPA | 54 mmol, 9.35 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | KCN | 54 mmol, 3.5 g | [C-]#N.[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-methanesulfonyl-phenyl)-acetonitrile | CS(=O)(=O)C1=CC=C(C=C1)CC#N | C9H9NO2S
